US04271188
Ethyl 4-(4-chlorobenzylamino)-benzoate (11.56 g; 0.04 M), acetic anhydride (40 ml) and concentrated sulphuric acid (5 drops) were mixed and heated with stirring on a steam-bath for 1 hour. The mixture was cooled to room temperature, added to iced water (100 ml) and neutralised with solid sodium bicarbonate. The product was extracted into dichloromethane (2×100 ml), washed with water (1×100 ml) and evaporated to give an oil from which N-(4-ethoxycarbonylphenyl)-N-(4-chlorobenzyl)-acetamide (8.32 g; 63%) was obtained by chromatography on silica-gel in dichloromethane then 2% methanol-dichloromethane followed by crystallisation from ethanol. M.p. 65°-6° C.

reactant | Ethyl 4-(4-chlorobenzylamino)-benzoate | 0.04 M, 11.56 g | ClC1=CC=C(CNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C16H16ClNO2
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | N-(4-ethoxycarbonylphenyl)-N-(4-chlorobenzyl)-acetamide | 8.32 g, 63% | C(C)OC(=O)C1=CC=C(C=C1)N(C(C)=O)CC1=CC=C(C=C1)Cl | C18H18ClNO3
